data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_616554_1,[C:1]([C:4](=[C:9]([H:23])[H:24])[O:10][C:2]([H:17])([H:18])[H:19])([C:6]([C:3]([H:20])([H:21])[H:22])=[C:5]([N:7]([H:11])[H:12])[N:8]([H:13])[H:14])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:4](=[C:9]([H:23])[H:24])[C@:6]1([C:3]([H:20])([H:21])[H:22])[C:5]([N:7]([H:11])[H:12])([N:8]([H:13])[H:14])[O:10][C:2]([H:17])([H:18])[H:19],71.66050000002471
MR_520702_0,[C:1](/[C:2]([C:5]([N:7]=[C:6]([H:17])[H:18])([N:9]([H:13])[H:15])[H:16])=[N:8]/[H:14])([N:3]([H:10])[H:11])=[N:4]\[H:12]>>[C:1]([C:2](/[C:5](=[N:9]/[H:15])[H:16])=[N:8]/[H:14])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[N:7]=[C:6]([H:17])[H:18],54.91942749998813
MR_207063_0,[C:1]12([H:8])[C:2]([H:9])([C:4]([H:11])([H:12])[C:3]1([C:5]([H:13])([H:14])[H:15])[H:10])[N:6]2[H:7]>>[C:1](\[C:2]1([H:9])[C:3]([C:5]([H:13])([H:14])[H:15])([H:10])[C:4]1([H:11])[H:12])(=[N:6]/[H:7])[H:8],72.2321525000082
MR_331159_2,[C:1]1([C:2]([C:4]([H:14])([H:15])[H:16])([H:9])[H:10])([O:7][H:8])[N:5]([C:3]([H:11])([H:12])[H:13])[O:6]1>>[C:1](=[C:2](\[C:4]([H:14])([H:15])[H:16])[H:9])(\[O:6][N:5]([C:3]([H:11])([H:12])[H:13])[H:10])[O:7][H:8],50.120935000011286
MR_56055_2,[C:1]([C:2]([C:5]([C:4]([H:15])([H:16])[H:17])([O:7][H:8])[H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[O:6]>>[C:1]([C:2]([C:5]([C:4]([H:15])([H:16])[H:17])=[O:7])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([O:6][H:8])[H:9],55.59649999999081
MR_447457_1,[C:1]1([H:13])([H:14])[C:2]([H:15])([H:16])[C:4](/[C:3]([N:5]([H:9])[H:10])=[N:8]/[H:11])=[C:6]([H:12])[O:7]1>>[C:1]1([H:13])([H:14])[C:2]([H:15])([H:16])[C:4]1(/[C:3]([N:5]([H:9])[H:10])=[N:8]/[H:11])[C:6](=[O:7])[H:12],52.154035000014574
MR_202223_0,[C:1](/[C:5](=[C:3](/[C:2](=[C:4]([N:8]([H:15])[H:16])[N:9]([H:17])[H:18])[N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[N:10]([H:19])[H:20])([H:21])([H:22])[H:23]>>[C:1]([C@@:5]1([N:10]([H:19])[H:20])[C:3]([N:7]([H:13])[H:14])=[C:2]([N:6]([H:11])[H:12])[C:4]1([N:8]([H:15])[H:16])[N:9]([H:17])[H:18])([H:21])([H:22])[H:23],45.96563000001567
MR_558493_0,[C:1]([N:3]([C:4]([N:5]([H:9])[H:10])=[O:8])/[N:7]=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[N:7]/[C:6]([C:2]([H:15])([H:16])[H:17])([C:4]([N:5]([H:9])[H:10])=[O:8])[H:11])([H:12])([H:13])[H:14],70.58308250003407
MR_5482_1,[C:1]([N:3]([N:4]([C:2]([H:13])([H:15])[H:16])[N:6]([H:9])[H:10])[N:5]([H:7])[H:8])([H:11])([H:12])[H:14]>>[C:1]([N:3]([N:5]([H:7])[H:8])[N:6]([N:4]([C:2]([H:13])([H:15])[H:16])[H:10])[H:9])([H:11])([H:12])[H:14],61.18313250001094
MR_315981_1,[C:1]([N:4]([O:7][H:8])[H:9])([C:6](=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:13])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:1](=[C:6]([C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])[N:4]([O:7][H:8])[H:9])[H:12])([H:10])[H:11],58.10900999999646
MR_530564_1,[C:1](\[C:3]([C:7]([C:2]([C:5]([H:19])([H:22])[H:23])([C:6]([H:20])([H:21])[H:24])[H:11])([C:4]([H:16])([H:17])[H:18])[O:9][H:13])([H:14])[H:15])(=[N:8]/[H:12])[H:10]>>[C:1]([C:2]([C:5]([H:19])([H:22])[H:23])([C:6]([H:20])([H:21])[H:24])[H:11])([C:3]([C:7]([C:4]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15])([N:8]([H:12])[H:13])[H:10],58.10336250001072
MR_4131_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4](=[C:5]([H:15])[H:16])[H:8])[O:6][H:7]>>[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([O:6][H:7])([H:15])[H:16])[H:8],62.79141500001671
MR_236335_0,[C:1](/[C:3](=[C:4](/[C:2]([H:11])([H:12])[H:13])[H:10])[H:9])([N:5]=[O:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@:3]([N:5][O:6])([H:9])[C@@:4]1([C:2]([H:11])([H:12])[H:13])[H:10],70.09488750001822
MR_675026_0,[C:1]([C:2]([N:4]([H:14])[H:15])([O:7][H:9])[H:11])([N:3]([H:12])[H:13])([O:5][O:6][H:8])[H:10]>>[C:1]([C:2]([N:4]([H:14])[H:15])([O:5][O:6][H:8])[H:11])([N:3]([H:12])[H:13])([O:7][H:9])[H:10],63.645442500000655
MR_147770_0,[C:1]([N:3]([N:4]([C:2]([H:12])([H:13])[H:14])[H:7])[C:5](=[C:6]([H:15])[H:16])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[C:5](/[C:6]([N:4]([C:2]([H:12])([H:13])[H:14])[H:7])([H:15])[H:16])[H:8])([H:9])([H:10])[H:11],63.52119749999332
MR_70209_0,[C:1]([N:2]([C:3]([N:4]([H:8])[H:9])=[O:6])[O:5][H:7])([H:10])([H:11])[H:12]>>[C:1]([O:6]/[C:3](=[N:2]/[O:5][H:7])[N:4]([H:8])[H:9])([H:10])([H:11])[H:12],71.1384199999874
MR_56360_0,[C:1]([n:3]1[c:4]([C:2]([H:12])([H:13])[H:14])[c:5]([H:8])[n:7][n:6]1)([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[C:4](\[C:2]([H:12])([H:13])[H:14])[C:5]1([H:8])[N:6][N:7]1)([H:9])([H:10])[H:11],28.00406999995729
MR_421239_0,[C:1]([C:2]([N:5]([C:3]([H:15])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])=[O:9])([H:13])[H:14])([O:7][H:10])([O:8][H:11])[H:12]>>[C:1]([C:2]([N:5]([C:3]([H:15])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])([O:9][H:11])[H:12])([H:13])[H:14])([O:7][H:10])=[O:8],54.95142999997867
MR_517501_0,[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])([O:4][O:6][H:9])[O:5][O:7][H:8]>>[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])([O:4][O:5][O:7][H:8])[O:6][H:9],57.0968525000194
